US07288674B2
180 mL of isopropanol and 180 mL of ethanol were added to 36.0 g of the 1-(trifluoroacetylamino)-1-(1-naphthyl)-2-methyl-2-propanol obtained, and 63 g of an aqueous solution of 22% by weight of potassium hydroxide was added-dropwise thereto over 30 minutes at room temperature. The inner temperature of the mixture was raised to 50° C. and, at the same temperature, the mixture was stirred for 2 hours to effect reaction. The reaction mixture was concentrated, and 500 mL of chloroform and 180 mL of water were added to the resulting concentrated residue to carry out extraction treatment. The organic layer obtained was washed with 100 mL of water and the organic layer obtained was dried over dehydrated sodium sulfate and then concentrated. The resulting concentrated residue was dried at an inner temperature of 30° C. under reduced pressure to obtain 28.0 g of brown, viscous and oily 1-amino-1-(1-naphthyl)-2-methyl-2-propanol.

reactant | isopropanol | 180 mL | C(C)(C)O | C3H8O
reactant | 1-(trifluoroacetylamino)-1-(1-naphthyl)-2-methyl-2-propanol | 36.0 g | FC(C(=O)NC(C(C)(O)C)C1=CC=CC2=CC=CC=C12)(F)F | C16H16F3NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 1-amino-1-(1-naphthyl)-2-methyl-2-propanol | NC(C(C)(O)C)C1=CC=CC2=CC=CC=C12 | C14H17NO
